US08629271B2
a) tert-Butyl 4-(2-phenylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (0.60 g) in DMF (11 mL) was treated with triethylamine (1.1 mL), followed by 2-phenyl-1,3-thiazole-4-carboxylic acid (0.421 g) and then O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.09 g). The resulting mixture was stirred at RT for 7 h. DMF was removed in vacuo. The residue was taken up in EtOAc (50 mL) and washed with saturated sodium bicarbonate solution (2×30 mL), water (30 mL) and brine (30 mL), dried over sodium sulphate, filtered and evaporated in vacuo. The brown oil was purified by silica gel chromatography eluting with 0-10% MeOH in DCM to give the subtitled compound as a brown solid. Yield 0.857 g.

reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 0.60 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-phenyl-1,3-thiazole-4-carboxylic acid | 0.421 g | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.09 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(2-phenylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C23H29N3O4S
